US04546179
Preparation of 2-[[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
A slurry of 10.0 grams (0.042 moles) of 2-carbomethoxybenzenesulfonyl chloride, 5.0 grams (0.0357 moles) 4-methoxy-6-methyl-1,3,5-triazin-2-amine and 6.0 grams (0.092 moles) sodium cyanate in 60 ml N-methylpyrrolidinone was stirred 2 hours at 80° C. The reaction was cooled to 25° C., diluted with 200 ml saturated sodium bicarbonate solution, and filtered. The filtrate was acidified with dilute hydrochloric acid and the product was collected by filtration and dried to give the title compound in 55% yield. The IR spectrum of the title compound was identical to that of an authentic sample prepared as taught in U.S. Pat. No. 4,383,113.

reactant | 2-carbomethoxybenzenesulfonyl chloride | 0.042 moles, 10.0 grams | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H7ClO4S
reactant | 4-methoxy-6-methyl-1,3,5-triazin-2-amine | 0.0357 moles, 5.0 grams | COC1=NC(=NC(=N1)C)N | C5H8N4O
reactant | sodium cyanate | 0.092 moles, 6.0 grams | [O-]C#N.[Na+]
solvent | N-methylpyrrolidinone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
product | 2-[[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | 55% yield | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H15N5O6S
